US06822100B2
A suspension of lithium aluminum hydride (0.020 g, 0.53 mmol) in anhydrous tetrahydrofuran (5 ml) at −45° C. was treated with a solution 2-(3-cyano-1H-indol-5-ylmethyl)-cyclopropanecarboxylic acid methoxy-methyl-amide in 5 ml tetrahydrofuran. After 30 min at −45° C. an additional 0.53 mmol lithium aluminum hydride was added. The reaction was quenched with water followed by 1 N sodium hydroxide after another 30 min. The aluminum salts were removed by filtration and the filtrate was concentrated in vacuo to afford 5-(2-Formyl-cyclopropylmethyl)-1H-indole-3-carbonitrile (0.034 g, 57%) as a light yellow film. 1H-NMR (400 MHz, CDCl3) 9.07 (1H, d, J=5.16 Hz), 7.71 (1H, s), 7.58 (1H, s), 7.39 (1H, d, J=8.2 Hz), 7.22 (1H, m), 6.98 (1H, s), 2.80 (2H, m), 1.86 (2H), 1.40 (1H, m), 1.11 (1H, m).

reactant | lithium aluminum hydride | 0.53 mmol, 0.020 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(3-cyano-1H-indol-5-ylmethyl)-cyclopropanecarboxylic acid methoxy-methyl-amide | CON(C(=O)C1C(C1)CC=1C=C2C(=CNC2=CC1)C#N)C | C16H17N3O2
reactant | lithium aluminum hydride | 0.53 mmol | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 5-(2-Formyl-cyclopropylmethyl)-1H-indole-3-carbonitrile | 0.034 g, 57% | C(=O)C1C(C1)CC=1C=C2C(=CNC2=CC1)C#N | C14H12N2O
